US07429665B2
2-{4-[4-(2-Chloro-pyridin-4-yl)-1-methyl-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline
Following the procedure for the preparation of 2-2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline but substituting methyl hydrazine and 2-(2-Chloro-pyridin-4-yl)-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.19 (m, 2 H), 8.07 (d, J=8.3 Hz, 1 H), 7.83 (d, J=8.3 Hz, 1 H), 7.74 (t, J=8.3 Hz, 1H), 7.67 (d, J=8.3 Hz, 1 H), 7.58 (s, 1H), 7.55 (t, J=8.3 Hz, 1 H), 7.36 (d, J=8.7 Hz, 2H), 7.20 (s, 1H), 7.03 (m, 3H), 5.40 (s, 2H) 3.95 (s, 3H); MS: (M+H m/z=427.0).

reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | methyl hydrazine | CNN | CH6N2
reactant | 2-(2-Chloro-pyridin-4-yl)-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone | ClC1=NC=CC(=C1)CC(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H17ClN2O2
product | 2-{4-[4-(2-Chloro-pyridin-4-yl)-1-methyl-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | ClC1=NC=CC(=C1)C=1C(=NN(C1)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H19ClN4O
